US08030322B2
Preparation 22: 5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione (Prep22)
To a solution of 2,4-bis(benzyloxy)-5-(thiophen-2-yl)pyrimidine (Prep21, 20 g, 53.5 mol) in dry dichloromethane (400 ml), iodotrimethylsilane (28.8 g, 0.14 mol) was added at room temperature. The resulting solution was stirred for 3 hours. Then methanol was added, the precipitate was filtered and the solid was recrystallized with methanol twice, to afford 7 g of the title compound (y=67.3%)

reactant | 2,4-bis(benzyloxy)-5-(thiophen-2-yl)pyrimidine | 53.5 mol, 20 g | C(C1=CC=CC=C1)OC1=NC=C(C(=N1)OCC1=CC=CC=C1)C=1SC=CC1 | C22H18N2O2S
reactant | iodotrimethylsilane | 0.14 mol, 28.8 g | I[Si](C)(C)C | C3H9ISi
reactant | methanol | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-(thiophen-2-yl)pyrimidine-2,4(1H,3H)-dione | 7 g, 67.3% | S1C(=CC=C1)C=1C(NC(NC1)=O)=O | C8H6N2O2S
